US06162813
2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of piperidine-1,2-dicarboxylic acid 1-tert-butyl ester (3.0 g in a mixture of 26 mL dry tetrahydrofuran and 26 mL dry diethyl ether) at -10° C. was added 1.91 mL of triethylamine followed by the dropwise addition of 1.78 mL isobutyl chloroformate. The reaction was stirred at -10° C. for 30 minutes then warmed to 0° C. Over the next hour, 26 mL of a solution of diazomethane in diethyl ether was added (prepared from: 8.0 g Diazald® in 70 mL diethyl ether; 4 g potassium hydroxide; 20 mL 2-(2-ethoxyethoxy)ethanol; 6 mL water and 12 mL diethyl ether using a mini Diazald Kit) and the mixture allowed to stir at room temperature for an additional 2 hours. At this time the reaction was quenched by the addition of 3 mL acetic acid at 0° C. This was then diluted with 100 mL water and 100 mL diethyl ether, the layers separated and the aqueous portion extracted with (2×75 mL) diethyl ether. The combined organics were washed with water (75 mL), saturated sodium bicarbonate (2×75 mL) and brine (75 mL) then dried over magnesium sulfate. Removal of the solvent in vacuo and purification of the residue by flash chromatography on silica gel (hexane:ethyl acetate, 8:2) gave the title compound (2.99 g).

reactant | piperidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)O | C11H19NO4
reactant | isobutyl chloroformate | 1.78 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | Diazald | 8.0 g | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | potassium hydroxide | 4 g | [OH-].[K+]
reactant | 2-(2-ethoxyethoxy)ethanol | 20 mL | C(C)OCCOCCO | C6H14O3
solvent | tetrahydrofuran | 26 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 26 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 12 mL | C(C)OCC | C4H10O
solvent | water | 6 mL | O | H2O
solvent | triethylamine | 1.91 mL | C(C)N(CC)CC | C6H15N
product | 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.99 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
